US04168269
4,9-Dihydro-9-hexyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
An 11.8 g. portion of 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one is combined with 2.8 g. of 50% sodium hydride in mineral oil and 175 ml. of dimethylformamide and stirred for 2 hours. A 15.7 g. (11 ml.) portion of n-hexyl iodide is added and the mixture is stirred overnight. The reaction mixture is poured into ice water and the brown oil is separated and dissolved in methylene chloride. The dimethylformamide-water mixture is extracted twice with methylene chloride. All methylene chloride portions are combined, washed with water, dried over sodium sulfate, filtered and concentrated to a dark brown oil. This oil is dissolved in 10 ml. of methylene chloride and chromatographed on an alumina column. The column is eluted with 500 ml. of hexane followed by 30% methylene chloride in hexane for fractions 5-13 and methylene chloride:hexane (50:50) for fractions 14-19. Fraction 6 is concentrated to a dark brown viscous oil (A). Fractions 7-19 are combined and concentrated to dryness (B). (A) and (B) both crystallize in hexane and are combined, filtered, washed with hexane and dried. The product is dissolved with warming in 50 ml. of benzene and filtered. To the filtrate is added 100 ml. of hexane and the mixture is cooled overnight. The solid is collected, washed with ether and dried, giving the desired product, mp. 100°-102° C.

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | n-hexyl iodide | C(CCCCC)I | C6H13I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-9-hexyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(CCCCC)N1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C17H20N2OS
